US04849535
In the presence of 0.6 g of paratoluenesulfonic acid, 50 g (0.4 mol) of cyclooctanone and 100 ml (0.9 mol) of isopropenyl acetate were refluxed for 11 hours. The reaction mixture was cooled, stirred with 0.6 g of anhydrous sodium carbonate at room temperature for one hour, left standing overnight, and filtered. The filtrate was distilled under reduced pressure to afford 60 g (91% yield) of 1-cyclooctenyl acetate having a boiling point of 71° to 73° C./3 mmHg.

reactant | cyclooctanone | 0.4 mol, 50 g | C1(CCCCCCC1)=O | C8H14O
reactant | isopropenyl acetate | 0.9 mol, 100 ml | C(C)(=O)OC(=C)C | C5H8O2
catalyst | sodium carbonate | 0.6 g | C([O-])([O-])=O.[Na+].[Na+]
product | 1-cyclooctenyl acetate | 60 g, 91% yield | C(C)(=O)OC1=CCCCCCC1 | C10H16O2
